US07053212B2
Step A: 2,4,6-Trimethyl-N-[4-(3-oxo-3-pyrrolidin-1-yl-propenyl)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide
A solution of pyrrolidine (11.7 μl, 0.14 mmol) in 0.3 mL methylene chloride was added to 3-{4-[[3-(tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethylbenzenesulfonyl)-amino]-phenyl}-acrylic acid (0.050 g, 0.09 mmol). Triethylamine (0.07 mL, 0.50 mmol), 1-propanephosphonic acid cyclic anhydride (0.056 mL of a 50 wt. % solution in ethyl acetate, 0.190 mmol), and catalytic DMAP were added. The reaction mixture was stirred at room temperature for 48 hr. PS-trisamine resin (0.050 g) and PS-isocyanate (0.050 g) resin was added, and the reaction mixture was stirred at room temperature for two hours. The resin was filtered off and the filtrate was concentrated. The residue was purified by preparative TLC to afford 0.021 g of the title compound of Step A.

reactant | pyrrolidine | 0.14 mmol, 11.7 μl | N1CCCC1 | C4H9N
reactant | 3-{4-[[3-(tetrahydro-pyran-2-yloxy)-benzyl]-(2,4,6-trimethylbenzenesulfonyl)-amino]-phenyl}-acrylic acid | 0.09 mmol, 0.050 g | O1C(CCCC1)OC=1C=C(CN(C2=CC=C(C=C2)C=CC(=O)O)S(=O)(=O)C2=C(C=C(C=C2C)C)C)C=CC1 | C30H33NO6S
reactant | Triethylamine | 0.50 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | trisamine | 0.050 g | C(C(CO)(CO)N)O | C4H11NO3
reactant | isocyanate | 0.050 g | [N-]=C=O
solvent | methylene chloride | 0.3 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,4,6-Trimethyl-N-[4-(3-oxo-3-pyrrolidin-1-yl-propenyl)-phenyl]-N-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-benzenesulfonamide | 0.021 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N(CC1=CC(=CC=C1)OC1OCCCC1)C1=CC=C(C=C1)C=CC(N1CCCC1)=O | C34H40N2O5S
